US05073574
(a) 1,6-Dimethyl-1H-benzotriazole
6-Methylbenzotriazole is reacted with methyl iodide, yielding the title compound (in addition to the isomeric 2-methyl-2H and 3-methyl-3H compounds). The title compound is obtained in pure form by chromatography.

reactant | 6-Methylbenzotriazole | CC=1C=CC2=C(NN=N2)C1 | C7H7N3
reactant | methyl iodide | CI | CH3I
product | 1,6-Dimethyl-1H-benzotriazole | CN1N=NC2=C1C=C(C=C2)C | C8H9N3
